US08912188B2
To a solution of methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate (150 mg, 0.46 mmol) in dioxane (10 mL) was added phenylboronic acid (112 mg, 0.92 mmol), Cu(OAc)2 (123 mg, 0.68 mmol), pyridine (31 mg, 0.39 mmol) and Et3N (310 mg, 2.3 mmol). The resulting solution was stirred for 36 h at room temperature and concentrated under vacuum. The residue was purified via silica gel chromatography (1% to 5% ethyl acetate in petroleum ether) to afford methyl 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate as a yellow solid (80 mg, 43%).

reactant | methyl 3-[methyl(propan-2-yl)amino]-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 0.46 mmol, 150 mg | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NNC1)C(C)C | C17H19N5O2
reactant | phenylboronic acid | 0.92 mmol, 112 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.39 mmol, 31 mg | N1=CC=CC=C1 | C5H5N
reactant | Et3N | 2.3 mmol, 310 mg | CCN(CC)CC | C6H15N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Cu(OAc)2 | 0.68 mmol, 123 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | methyl 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 80 mg, 43% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NN(C1)C1=CC=CC=C1)C(C)C | C23H23N5O2
